US08106077B2
3-(2-{2-Chloro-4-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-phenyl}-vinyl)-benzoic acid
To a solution of 3-(2-{2-chloro-4-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-phenyl}-vinyl)-benzoic acid methyl ester (0.459 g, 0.825 mmol) in methyl alcohol (20 mL) is added 1 N sodium hydroxide solution (2.5 mL). The reaction is heated to mild reflux for 1 h and is cooled to room temperature. The reaction mixture is concentrated under reduced pressure. The residue is dissolved in water and the aqueous solution is acidified with 5 N hydrochloric acid solution to form a white precipitate. The solid is filtered and dried overnight under reduced pressure to give the title compound (0.395 g). ES/MS m/e 542.0 (M+1), 542.0 (M-H); HPLC purity: 95.56

reactant | 3-(2-{2-chloro-4-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-phenyl}-vinyl)-benzoic acid methyl ester | 0.825 mmol, 0.459 g | COC(C1=CC(=CC=C1)C=CC1=C(C=C(C=C1)OCC=1N(N=NC1C(C)C)C1=C(C=CC=C1Cl)Cl)Cl)=O | C28H24Cl3N3O3
reactant | sodium hydroxide | 1 N, 2.5 mL | [OH-].[Na+]
solvent | methyl alcohol | 20 mL | CO | CH4O
product | 3-(2-{2-Chloro-4-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-phenyl}-vinyl)-benzoic acid | 0.395 g | ClC1=C(C=CC(=C1)OCC=1N(N=NC1C(C)C)C1=C(C=CC=C1Cl)Cl)C=CC=1C=C(C(=O)O)C=CC1 | C27H22Cl3N3O3
